US05151436
A solution of (±)-2-(3-quinolinyl)cyclohexanone (0.78 g, 3.5 mmol) in tetrahydrofuran (10 ml) at -5° C. was treated with potassium t.-butoxide (0.43 g, 3.9 mmol) in one portion. After 25 minutes at -5° C. the deep red mixture was treated dropwise during 1 minute with a solution of methyl isothiocyanate (0.28 g, 3.9 mmol) in tetrahydrofuran (2 ml). After 4 hours at 0° C. the reaction mixture was partitioned between saturated aqueous ammonium chloride solution (50 ml) and chloroform (50 ml). The aqueous layer was extracted again with chloroform (50 ml). The combined organic extracts were then dried over sodium sulphate and concentrated in vacuo (20° C.; 14 mmHg) to give a crude oil which was purified by flash chromatography over silica gel eluting with ethyl acetate to give (±)-N -methyl-2-oxo-1-(3-quinolinyl)cyclohexanecarbothioamide (0.1 g, 0.33 mmol), m.p. 235°-236° C. N.M.R. (CDCl3) 1.7-2.18 (c, 4H), 2.46-2.64 (m, 2H) 2.72-2.90 (m, 1H), 2.96-3.16 (m, 1H), 3.16-3.22 (d, 3H), 7.50-7.62 (ddd, 1H), 7.66-7.76 (ddd, 1H), 7.76-8.02 (dd, 1M), 8.0 (d, 1M), 8.04-8.12 (dd, 1H), 8.78-8.80 (d, 1H), 8.92-9.18 (broad singlet, 1H). Calculated for C17H18N2OS: C,68.4; H, 6.08; N, 9.4; S, 10.7%: Found C, 68.0; H, 5.8; N, 9.0; S, 10.4%.

reactant | (±)-2-(3-quinolinyl)cyclohexanone | 3.5 mmol, 0.78 g | N1=CC(=CC2=CC=CC=C12)C1C(CCCC1)=O | C15H15NO
reactant | potassium | [K] | K
reactant | butoxide | 3.9 mmol, 0.43 g | [O-]CCCC
reactant | methyl isothiocyanate | 3.9 mmol, 0.28 g | CN=C=S | C2H3NS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (±)-N -methyl-2-oxo-1-(3-quinolinyl)cyclohexanecarbothioamide | 0.33 mmol, 0.1 g | CNC(=S)C1(C(CCCC1)=O)C=1C=NC2=CC=CC=C2C1 | C17H18N2OS
